US04996202
A. (R)-3,7-dimethyl-8-(1-phenyl-1H-tetrazol-5-yl)oxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine
(R)-8-Hydroxy-3,7-dimethyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine (13.35g, 0.0499 mol) was dissolved in DMF (70 ml) and 50% sodium hydride in mineral oil (2.4 g, 0.0499 mol) was added with stirring under nitrogen. The solution was stirred at room temperature for one hour longer. A solution of 5-chloro-1-phenyl-1H-tetrazole (9.90 g) in DMF (40 ml) was added dropwise to the solution with stirring. The solution was stirred for two hours longer and then at 45° C. for another 0.5 hour. The solution was chilled and poured into 900 ml of ice and H2O. The solution was extracted with 2× 250 ml of ether. The combined ethyl layers were washed with 300 ml of water. The ether solution was dried and reduced to about 125 ml. The solid was filtered off, m.p. 140°-142° C.

reactant | (R)-8-Hydroxy-3,7-dimethyl-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.0499 mol, 13.35g | OC=1C(=CC2=C([C@H](CN(CC2)C)C2=CC=CC=C2)C1)C | C18H21NO
reactant | sodium hydride | [H-].[Na+]
reactant | 5-chloro-1-phenyl-1H-tetrazole | 9.90 g | ClC1=NN=NN1C1=CC=CC=C1 | C7H5ClN4
reactant | H2O | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | (R)-3,7-dimethyl-8-(1-phenyl-1H-tetrazol-5-yl)oxy-1-phenyl-2,3,4,5-tetrahydro-1H-3-benzazepine | CN1CCC2=C([C@H](C1)C1=CC=CC=C1)C=C(C(=C2)C)OC2=NN=NN2C2=CC=CC=C2 | C25H25N5O
